US20010021718A1
tert-Butyl (3R)-6-cyclohexyl-3-(3{[methyl(2-pyridinylmethyl)amino]carbonyl}1,2,4-oxadiazol-5-yl)hexanoate
1-1′-Azobis(N,N-dimethylformamide) (645 mg, 3.75 mmol) was added to a cooled solution of tert-butyl (3R)-6-cyclohexyl-3-{3-[(methylamino)carbonyl]-1,2,4-oxadiazol-5-yl}hexanoate (Preparation 7) (1.42 g, 3.75 mmol), tributylphosphine (930 μl, 3.75 mmol) and 2-hydroxymethylpyridine (240 μl, 2.50 mmol) in toluene (10 ml) and the resulting mixture was stirred at 0° C. under a nitrogen atmosphere for 15 minutes, then at room temperature for 72 hours. The mixture was filtered and the solvent removed from the filtrate under reduced pressure. The residue was purified by column chromatography on silica gel eluting with a gradient system of hexane:ethyl acetate (90:10) gradually changing to hexane:ethyl acetate (50:50) to afford the title compound as a pale yellow oil (530 mg).

reactant | tert-butyl (3R)-6-cyclohexyl-3-{3-[(methylamino)carbonyl]-1,2,4-oxadiazol-5-yl}hexanoate | 3.75 mmol, 1.42 g | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)C(=O)NC | C20H33N3O4
reactant | tributylphosphine | 3.75 mmol, 930 μl | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 2-hydroxymethylpyridine | 2.50 mmol, 240 μl | OCC1=NC=CC=C1 | C6H7NO
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | tert-Butyl (3R)-6-cyclohexyl-3-(3{[methyl(2-pyridinylmethyl)amino]carbonyl}1,2,4-oxadiazol-5-yl)hexanoate | 530 mg | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)C(=O)N(CC1=NC=CC=C1)C | C26H38N4O4
